US08314091B2
A: 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-y)benzamide
3-(Piperazin-1-ylmethyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide (1.518 mmol, 0.5 g), 4-amino-3-fluorobenzoic acid (1.518 mmol, 0.235 g) and triethylamine (3.80 mmol, 0.529 mL, 0.384 g) were dissolved in dichloromethane (15.18 mL) and stirred for 5 minutes. 1-Propanephosphonic acid cyclic anhydride (3.04 mmol, 1,799 mL, 1.932 g, 50% solution in ethyl acetate) was added dropwise and the reaction mixture was allowed to stir for 1 hour. Dichloromethane was added and the organic mixture was washed with saturated sodium hydrogen carbonate, water, and saturated sodium chloride. The organic phase was dried with sodium sulfate, filtered and concentrated to yield the title compound (500 mg). MS (ESI) m/z 467.4 [M+H]+

reactant | 3-(Piperazin-1-ylmethyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 1.518 mmol, 0.5 g | N1(CCNCC1)CC=1C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC1 | C16H22F3N3O
reactant | 4-amino-3-fluorobenzoic acid | 1.518 mmol, 0.235 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 3.80 mmol, 0.529 mL, 0.384 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 3.04 mmol, 1,799 mL, 1.932 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 15.18 mL | ClCCl | CH2Cl2
product | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-y)benzamide | 500 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC2)C=C1)F | C23H26F4N4O2
